US04965257
A mixture of 3,3-di-(hydroxymethyl)-1,1,1-trifluorohexan-2-ol (2.8 g.), diethyl carbonate (1.6 ml.), potassium hydroxide (0.1 g) and dry ethanol (4.0 mls) was refluxed gently (oil bath 110°), under a current of nitrogen, for 30 minutes. The ethanol was then removed by distillation. Distillation gave 3-(1-hydroxy-2,2,2-trifluoroethyl)-3-n-propyloxetane (1.7 g.), a colourless oil (b.p. 112°, 20-25 m.m).

reactant | 3,3-di-(hydroxymethyl)-1,1,1-trifluorohexan-2-ol | 2.8 g | OCC(C(C(F)(F)F)O)(CCC)CO | C8H15F3O3
reactant | diethyl carbonate | 1.6 ml | C(OCC)(OCC)=O | C5H10O3
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | ethanol | 4.0 mls | C(C)O | C2H6O
product | 3-(1-hydroxy-2,2,2-trifluoroethyl)-3-n-propyloxetane | 1.7 g | OC(C(F)(F)F)C1(COC1)CCC | C8H13F3O2
